US04337250
3-Benzyl-1-(4-bromo-1-butyl)-2,4-imidazolidinedione
Benzylimidazoline of the preceding Example (1.9 g, 10 mmoles) in 5 ml of dimethylformamide was added dropwise to a slurry of sodium hydride (528 mg of 50% dispersion in oil, 11 mmoles) and the mixture then stirred for 1 hour at room temperature. The resulting solution was added dropwise to 1,4-dibromobutane (2.37 g, 11 mmole) in 10 ml of dimethylformamide. After stirring 16 hours at room temperature, the reaction mixture was poured into ice and water and extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate, filtered and evaporated to an oil. The oil was chromatographed on silica gel with chloroform as eluant. Clean product fractions were combined and evaporated to yield the title product as an oil [1.4 g, pnmr(CDCl3)delta 1.6-2.0 (m, 4H), 3.2-3.6 (m, 4H), 3.8 (s, 2H), 4.6 (s, 2H), 7.2-7.5 (m, 5H)].

reactant | Benzylimidazoline | C(C1=CC=CC=C1)N1C=NCC1 | C10H12N2
reactant | sodium hydride | 11 mmoles, 528 mg | [H-].[Na+]
reactant | 1,4-dibromobutane | 11 mmole, 2.37 g | BrCCCCBr | C4H8Br2
reactant | water | O | H2O
reactant | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
reactant | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 3-Benzyl-1-(4-bromo-1-butyl)-2,4-imidazolidinedione | 1.4 g | C(C1=CC=CC=C1)N1C(N(CC1=O)CCCCBr)=O | C14H17BrN2O2
